US04971967
Preparation of 5-methyl-6,7-difluoro-1H,4H-thiazolo[3,4-a]quinoxaline-1-thione [compound (XVII)]:
4-Chloromethyl-3-(2,3,4-trifluorophenyl)-2(3H)-thiazolethione (2.5 g) prepared in the same manner as in Reference Example 7 was dissolved in acetonitrile (25 ml) and to the solution was added 40% solution of methylamine in methanol (3.3 g) and the mixture was stirred at 50° C. for 16 hours. The reaction mixture was evaporated to dryness under reduced pressure and to the residue was added water and the solution was extracted with chloroform. The extract was washed with a NaCl solution, dried over anhydrous sodium sulfate and the solvent was distilled off under reduced pressure. The obtained residue was recrystallized from a mixed solvent of cyclohexane - ethyl acetate to give the title compound (2.0 g) as pale yellow crystals, m.p. 165°-167° C.

reactant | 4-Chloromethyl-3-(2,3,4-trifluorophenyl)-2(3H)-thiazolethione | 2.5 g | ClCC=1N(C(SC1)=S)C1=C(C(=C(C=C1)F)F)F | C10H5ClF3NS2
reactant | methylamine | CN | CH5N
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
solvent | methanol | 3.3 g | CO | CH4O
product | 5-methyl-6,7-difluoro-1H,4H-thiazolo[3,4-a]quinoxaline-1-thione | 2.0 g | CN1CC=2N(C3=CC=C(C(=C13)F)F)C(SC2)=S | C11H8F2N2S2
